US06437146B1
To a solution of ethyl (±)-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoylamino}acetate (136.8 mg, 0.263 mmol) in tetrahydrofuran (4 ml) was added a solution of lithium hydroxide-water (22.1 mg, 0.526 mmol) in MeOH-water (1:1) (2.8 ml) at 5° C. and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added 1N-hydrochloric acid (0.8 ml) at 5° C. and extracted with EtOAc. The organic layer was washed with water and brine successively, dried over magnesium sulfate, and evaporated in vacuo to give (±)-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoylamino}acetic acid (129.0 mg, 100%).

reactant | ethyl (±)-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoylamino}acetate | 0.263 mmol, 136.8 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C(=O)NCC(=O)OCC)C=CC1 | C33H32N2O4
reactant | lithium hydroxide water | 0.526 mmol, 22.1 mg | [OH-].[Li+].O
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | MeOH water | 2.8 ml | CO.O
product | (±)-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoylamino}acetic acid | 129.0 mg, 100% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C(=O)NCC(=O)O)C=CC1 | C31H28N2O4
